US04048318
A solution of 25.4 g (0.1 mole) of 1-bromo-1-phenyl-3,3-dimethyl-butan-2-one in 50 ml of ethyl acetate was added dropwise, at the boil, to a solution of 12.85 g (0.1 mole) of 4-chlorophenol and 2.3 g (0.1 mole) of sodium in 100 ml of ethanol. After boiling for 12 hours under reflux, the sodium bromide which had separated out was filtered off hot. The filtrate was distilled in vacuo and the solid residue which remained was recrystallized from ligroin. 20.2 g (67% of theory) of 1-phenyl-1-(4'-chlorophenoxy)-3,3-dimethyl-butan-2-one of melting point 103° C were obtained. pg,48

reactant | 1-bromo-1-phenyl-3,3-dimethyl-butan-2-one | 0.1 mole, 25.4 g | BrC(C(C(C)(C)C)=O)C1=CC=CC=C1 | C12H15BrO
reactant | 4-chlorophenol | 0.1 mole, 12.85 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | sodium | 0.1 mole, 2.3 g | [Na] | Na
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-phenyl-1-(4'-chlorophenoxy)-3,3-dimethyl-butan-2-one | 20.2 g, 67% | C1(=CC=CC=C1)C(C(C(C)(C)C)=O)OC1=CC=C(C=C1)Cl | C18H19ClO2
